** sch_path: /foss/designs/ChipAcharya/xschem/assignment_1.sch
**.subckt assignment_1
I0 v_dd Vout {I_in}
XM1 Vout Vout GND GND sg13_lv_nmos w=1u l=0.13u ng=1 m=1
C1 Vout GND 1p m=1
Vdd v_dd GND 1.5
**** begin user architecture code


.temp 27
.control
save all
.ic v(Vout)=0
.param I_in = 1u



tran 0.05u 3u uic
plot v(Vout)








*.temp 27
*.control
*option numdgt=4
*set wr_singlescale
*set wr_vecnames
*save all
*.ic v(Vout)=0
*.param I_in = 1u

*compose IC_vec start=0 stop=1.8 step=0.3

*foreach icval $&IC_vec
*    alterparam IC_start = $icval
*    reset

*    tran 0.05u 3u uic
*    plot v(Vout)
*end


.endc


 .lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
