** sch_path: /foss/designs/ChipAcharya/xschem/assignment_1_task_3.sch
**.subckt assignment_1_task_3
XM1 v_gs v_gs GND GND sg13_lv_nmos w=1u l=1u ng=1 m=1
XM2 net1 v_gs GND GND sg13_lv_nmos w=1u l=1u ng=1 m=1
Vdd v_dd GND 1.5
I0 v_dd v_gs {I_in}
Vout v_out GND 1.5
Viout1 v_out net2 0
.save i(viout1)
XM3 net2 v_c net1 net1 sg13_lv_nmos w=1u l=0.5u ng=1 m=1
v_c v_c GND 1.2
**** begin user architecture code


.temp 27
.control
save all

.param I_in = 10u


dc Vout 0 1.5 10m
plot i(Viout1) vs v(v_out)


.endc


 .lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
